US04380548
Preparation of 4,4-dimethyl-2-(methylthio)imidazoline hydroiodide
A suspension of 110 g (0.83 M) of 4,4-dimethyl-2-imidazolidinethione in 700 ml isopropanol was treated with 148 g (1.04 M) methyl iodide and stirred at room temperature under reflux for 1/2 hour. When all had dissolved, heated to gentle reflux for 1 hour. Cool, dilute to 2 liters with anhydrous ether, seed, and cool in ice. Filter and wash with dry ether. Yield of 4,4-dimethyl-2-(methylthio)imidazoline hydroiodide was 221 g, 98%, mp 93.5°-95° C. Pure material melts at 94.5°-95° C.

reactant | 4,4-dimethyl-2-imidazolidinethione | 0.83 M, 110 g | CC1(NC(NC1)=S)C | C5H10N2S
reactant | methyl iodide | 1.04 M, 148 g | CI | CH3I
solvent | isopropanol | 700 ml | C(C)(C)O | C3H8O
solvent | ether | CCOCC | C4H10O
product | 4,4-dimethyl-2-(methylthio)imidazoline hydroiodide | I.CC1(N=C(NC1)SC)C | InChI=1S/C6H12N2S.HI/c1-6(2)4-7-5(8-6)9-3;/h4H2,1-3H3,(H,7,8);1H
